US09108983B2
Step A: Ethyl 1-(2-benzyloxyethyl)-2-methyl-pyrrole-3-carboxylate
Ethyl 2-methyl-1H-pyrrole-3-carboxylate (10 g, 65.3 mmol) is dissolved in 100 mL of dimethylformamide under argon cooled to 0° C., and then 2-bromoethoxymethylbenzene (28.1 g, 130.6 mmol) is added all at once. The reaction mixture is placed under stirring. There is then added thereto, at 0° C., in three portions, NaH (1.72 g, 71.83 mmol) over a period of 15 minutes. The reaction mixture is stirred for 15 minutes at 0° C., and then for 15 hours at ambient temperature. It is then poured into an ice bath and then extracted 3 times with ethyl acetate. The organic phase is washed 3 times with saturated aqueous lithium chloride solution, dried over MgSO4, filtered and then evaporated to dryness. The residue thereby obtained is purified by chromatography over silica gel using petroleum ether and ethyl acetate as eluants. The expected compound is obtained in the form of an oil.

reactant | Ethyl 2-methyl-1H-pyrrole-3-carboxylate | 65.3 mmol, 10 g | CC=1NC=CC1C(=O)OCC | C8H11NO2
reactant | 2-bromoethoxymethylbenzene | 130.6 mmol, 28.1 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | NaH | 71.83 mmol, 1.72 g | [H-].[Na+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | Ethyl 1-(2-benzyloxyethyl)-2-methyl-pyrrole-3-carboxylate | C(C1=CC=CC=C1)OCCN1C(=C(C=C1)C(=O)OCC)C | C17H21NO3
